US05075326
10.1 g (0.105 mol) of ammonium carbonate are added to a solution of 19.9 g (0.1 mol) of 2,4-dichloro-5-nitrothiazole in 200 ml of acetonitrile, while stirring, and stirring is continued at room temperature for two days. The mixture is then stirred into 1 l of ice-water and the precipitate is filtered off, washed with water and dried. To remove unreacted 2,4-dichloro-5-nitrothiazole, the product is stirred into about 100 ml of petroleum ether at room temperature, filtered off, washed with petroleum ether and dried. 12.2 g (68.0% of theory) of 2-amino-4-chloro-5-nitrothiazole of melting point 180° C. (decomposition) are obtained.

reactant | ammonium carbonate | 0.105 mol, 10.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 2,4-dichloro-5-nitrothiazole | 0.1 mol, 19.9 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-amino-4-chloro-5-nitrothiazole | 12.2 g, 68.0% | NC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3H2ClN3O2S
